US06828330B2
Methyl 3-hydroxy-4-[(trimethylsilyl)ethynyl]benzoate (540 mg, 2.17 mmole) is combined with 4 ml formic acid under nitrogen. The reaction is warmed to 80° C. for 12 h, is cooled to rt, and the volatiles are removed in vacuo. The black residue is chromatographed over 25 g silica gel (230-400 mesh) eluting with 15% EtOAc/hexane. The appropriate fractions are combined and concentrated to provide 350 mg (83%) of methyl 4-acetyl-3-hydroxybenzoate as a pale yellow solid. 1H NMR (CDCl3) δ 2.70, 3.95, 7.54, 7.64, 7.82, 12.10 ppm.

reactant | Methyl 3-hydroxy-4-[(trimethylsilyl)ethynyl]benzoate | 2.17 mmole, 540 mg | OC=1C=C(C(=O)OC)C=CC1C#C[Si](C)(C)C | C13H16O3Si
reactant | formic acid | 4 ml | C(=O)O | CH2O2
product | methyl 4-acetyl-3-hydroxybenzoate | 350 mg, 83% | C(C)(=O)C1=C(C=C(C(=O)OC)C=C1)O | C10H10O4
